US08106064B2
3-[3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (98):
To a stirred solution of 3-[3-(5-Isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile (5.36 g, 15.27 mmol) in anhydrous THF (50 ml), oxalyl chloride (25 ml) was added. The mixture was then refluxed with vigorous stirring for overnight. After cooling to room temperature, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, EA: hexanes (from 1:1 to 4:1)) to afford 2.7 g (55%) of a white solid. m.p. 233-235° C.; 1H NMR (300 MHz, CD3OD/CDCl3) δ 1.16 (6H, d, J=6.9 Hz), 2.39-2.56 (4H, m), 6.12 (1H, d, J=16.6 Hz), 7.49 (1H, d, J=16.6 Hz), 7.66 (1H, s), 7.83 (1H, s), 7.87 (1H, s); m/z (LC/Mass, EI) 324 (M+H+).

reactant | 3-[3-(5-Isopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 15.27 mmol, 5.36 g | C(C)(C)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C20H21N3O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | oxalyl chloride | 25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 3-[3-(5-Isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-phenyl]-acrylonitrile | 2.7 g, 55% | C(C)(C)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C=C(C1)C)C=CC#N | C18H17N3O3
